US06551682B1
(5) Production of 10-(3,6-dimethyl-2-pyrazinylazo)-9-phenanthrol (No. L46)
Next, a reaction flask was loaded with acetic acid (80 ml) and 9,10-phenanthrenequinone (4.0 g), and heated up to 90° C. with stirring to dissolve 9,10-phenanthrenequinone. To the resultant, the crystals of 2-hydrazino-3,6-dimethylpyrazine (2.7 g) was added in 20 minutes. After stirring at 90 to 100° C. for two hours, the reaction mixture was cooled and filtrated. An aqueous solution of sodium hydroxide was added to the filtrate with stirring so that crystals precipitated. The crystals were filtrated and washed with methanol, followed by being recrystallized with dioxane-water. The crystals were then filtrated and dried to give intended crystals (3.3 g).

reactant | 9,10-phenanthrenequinone | 4.0 g | C1=CC=CC=2C3=CC=CC=C3C(C(C12)=O)=O | C14H8O2
reactant | 2-hydrazino-3,6-dimethylpyrazine | 2.7 g | N(N)C1=NC(=CN=C1C)C | C6H10N4
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 10-(3,6-dimethyl-2-pyrazinylazo)-9-phenanthrol | CC=1C(=NC(=CN1)C)N=NC1=C(C2=CC=CC=C2C=2C=CC=CC12)O | C20H16N4O
